US04843070
Ethyl 7-(4-acetyl-1-piperazinyl)-6-chloro-4-oxo-4H-(1,3)thiazeto(3,2-a)quinoline-3-carboxylate
Into 50 ml of N,N-dimethylformamide were placed 2.35 g of methylene iodide and 2.5 g of potassium carbonate and a solution of 3.0 g of ethyl 7-(4-acetyl-1-piperazinyl)-6-chloro-4-hydroxy-2-mercaptoquinoline-3-carboxylate in 30 ml of N,N-dimethylformamide was gradually dropped in with stirring. After that, the mixture was stirred at room temperature for 1 hour, concentrated in vacuo, water was added to the residue, and insoluble crystals were collected by filtration. They were washed with water, dried, and recrystallized from a mixed solvent of ethanol and chloroform to give 2.49 g of colorless powdery crystals, m.p. 266°-268° C. (decompn).

reactant | methylene iodide | 2.35 g | C(I)I | CH2I2
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 7-(4-acetyl-1-piperazinyl)-6-chloro-4-hydroxy-2-mercaptoquinoline-3-carboxylate | 3.0 g | C(C)(=O)N1CCN(CC1)C1=C(C=C2C(=C(C(=NC2=C1)S)C(=O)OCC)O)Cl | C18H20ClN3O4S
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Ethyl 7-(4-acetyl-1-piperazinyl)-6-chloro-4-oxo-4H-(1,3)thiazeto(3,2-a)quinoline-3-carboxylate | 2.49 g | C(C)(=O)N1CCN(CC1)C1=C(C=C2C(C(=C3N(C2=C1)CS3)C(=O)OCC)=O)Cl | C19H20ClN3O4S
